US08865758B2
In a three-necked flask, under a azote atmosphere, sodium hydride (0.115 g, 60% in mineral oil, 2.871 mmol) was added at 0° C. by small portions to a solution of methyl 1-(4-chlorobenzyl)-4-oxopiperidine-3-carboxylate obtained above (0.809 g, 2.871 mmol) in 1.80 mL of anhydrous DMF. The resulting mixture was stirred 30 min at room temperature and then a solution of benzyl bromide (0.341 mL, 2.871 mmol) in 2.20 mL of anhydrous DMF was added. The reaction was followed by HPLC and UPLC-MS. After 24 h at room temperature, it was diluted with ethyl acetate. The organic phase was washed with H2O, brine, dried over Na2SO4 and concentrated in vacuo to give a yellow oil that was purified by flash chromatography (SiO2, petroleum ether:ethyl acetate 95:5 as eluent). Evaporation and drying in vacuo of the pure fractions gave pure methyl 3-benzyl-1-(4-chlorobenzyl)-4-oxopiperidine-3-carboxylate as a colorless oil. (0.623 g, 1.675 mmol, 58% yield). 372.2.

reactant | sodium hydride | 2.871 mmol, 0.115 g | [H-].[Na+]
reactant | methyl 1-(4-chlorobenzyl)-4-oxopiperidine-3-carboxylate | ClC1=CC=C(CN2CC(C(CC2)=O)C(=O)OC)C=C1 | C14H16ClNO3
reactant | benzyl bromide | 2.871 mmol, 0.341 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 1.80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-benzyl-1-(4-chlorobenzyl)-4-oxopiperidine-3-carboxylate | 58% yield | C(C1=CC=CC=C1)C1(CN(CCC1=O)CC1=CC=C(C=C1)Cl)C(=O)OC | C21H22ClNO3
